US05696138
N-(3-(trifluoromethyl)phenyl)-N'-(2-hydroxy-5-(phenylamino)phenyl) urea
To a cold (0° C.) suspension of N-(3-(trifluoromethyl)phenyl)-N'-(2-methoxy-5-(phenylamino)phenyl) urea (1.00 g, 2.5 mmol) in dichloromethane (50 ml), boron tribromide (0.48 ml, 5.1 mmol) was added. After the addition of boron tribromide the ice bath was removed and the reaction mixture was stirred for 3 hours at RT. The reaction was poured on ice (10 ml) and 1M sodium bicarbonate (50 ml) was added. The aqueous phase was extracted with ethyl acetate (50 ml) and the organic phase dried over magnesium sulfate. 1.05 g crude product was obtained. The crude product was purified by column chromatography on silica gel using petroleum ether/ethyl acetate 1:1 as eluent. The partly purified product (0.61 g) was recrystallized from ethanol/water 1:1 (20 ml). 0.20 g (21%) of the title compound was isolated. M.p. 166°-168° C.

reactant | N-(3-(trifluoromethyl)phenyl)-N'-(2-methoxy-5-(phenylamino)phenyl) urea | 2.5 mmol, 1.00 g | FC(C=1C=C(C=CC1)NC(=O)NC1=C(C=CC(=C1)NC1=CC=CC=C1)OC)(F)F | C21H18F3N3O2
reactant | boron tribromide | 5.1 mmol, 0.48 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(3-(trifluoromethyl)phenyl)-N'-(2-hydroxy-5-(phenylamino)phenyl) urea | 0.20 g, 21% | FC(C=1C=C(C=CC1)NC(=O)NC1=C(C=CC(=C1)NC1=CC=CC=C1)O)(F)F | C20H16F3N3O2
